* pll circuit using xspice code models
* output frequency 400 MHz
* locked to a 1 or 10 MHz reference

.param vcc=3.3
.param divisor=40
.param fref=10e6
.csparam simtime=25u

.global d_d0 d_d1

vdd dd 0 dc 'vcc'
*vco cont 0 dc 1.9

*PULSE(V1 V2 TD TR TF PW PER)
* reference frequency selected by param fref
* PULSE(V1 V2 TD TR TF PW PER)
vref ref 0 dc 0 pulse(0 'vcc' 10n 1n 1n  '1/fref/2' '1/fref')
abridgeref [ref] [d_ref] adc_vbuf
.model adc_vbuf adc_bridge(in_low = 0.5 in_high = 0.5)

*digital zero
vzero z 0 dc 0
abridgev3 [z] [d_d0] adc_vbuf
.model adc_vbuf adc_bridge(in_low = 'vcc*0.5' in_high = 'vcc*0.5')
*digital one
ainv1 d_d0 d_d1 invd1
.model invd1 d_inverter(rise_delay = 1e-10 fall_delay = 1e-10)

* vco
* buf: analog out
* d_digout: digital out
* cont: analog control voltage
* dd: analog supply voltage
*.include vco_sub.cir
*xvco buf d_digout cont dd ro_vco
.include vco_sub_new.cir
xvco buf d_digout cont dd d_osc_vco 

* digital divider
adiv1 d_digout d_divout divider
.model divider d_fdiv(div_factor = 'divisor' high_cycles = 'divisor/2'
+ i_count = 4 rise_delay = 1e-10
+ fall_delay = 1e-10)

* frequency phase detector
.include f-p-det-d-sub.cir
Xfpdet d_divout d_ref d_U d_Un d_D d_Dn  f-p-det

* loop filters
*2nd or 3rd order, transistors as switches
.include loop-filter-2.cir
Xlf d_Un d_D cont loopf
* 2nd order, Exxxx voltage controlled current sources as 'switches'
* loop filter current sources as charge pump
*.include loop-filter.cir
*Xlf d_U d_D cont loopfe

* d to a for plotting
abridge-w1 [d_divout d_ref d_Un d_D] [s1 s2 u1n d1] dac1 ; change to d_u or d_Un
.model dac1 dac_bridge(out_low = 0 out_high = 1 out_undef = 0.5
+ input_load = 5.0e-12 t_rise = 1e-10
+ t_fall = 1e-10)

.control
save cont s1 s2 u1n d1 v.xlf.vdd#branch; to save memory
iplot -d 4000 cont
tran 0.1n $&simtime uic
rusage
plot cont s1 s2+1.2 u1n+2.4 d1+3.6 xlimit 4u 5u
plot v.xlf.vdd#branch xlimit 4u 5u ylimit -8m 2m
*plot cont
.endc

*model = bsim3v3
*Berkeley Spice Compatibility 
* Lmin= .35 Lmax= 20 Wmin= .6 Wmax= 20
.model N1 NMOS
*+version = 3.2.4
+version = 3.3.0
+Level=        8 
+Tnom=27.0
+Nch= 2.498E+17  Tox=9E-09 Xj=1.00000E-07
+Lint=9.36e-8 Wint=1.47e-7
+Vth0= .6322    K1= .756  K2= -3.83e-2  K3= -2.612 
+Dvt0= 2.812  Dvt1= 0.462  Dvt2=-9.17e-2 
+Nlx= 3.52291E-08  W0= 1.163e-6 
+K3b= 2.233 
+Vsat= 86301.58  Ua= 6.47e-9  Ub= 4.23e-18  Uc=-4.706281E-11 
+Rdsw= 650  U0= 388.3203 wr=1
+A0= .3496967 Ags=.1    B0=0.546    B1= 1   
+ Dwg = -6.0E-09 Dwb = -3.56E-09 Prwb = -.213
+Keta=-3.605872E-02  A1= 2.778747E-02  A2= .9 
+Voff=-6.735529E-02  NFactor= 1.139926  Cit= 1.622527E-04 
+Cdsc=-2.147181E-05   
+Cdscb= 0  Dvt0w =  0 Dvt1w =  0 Dvt2w =  0 
+ Cdscd =  0 Prwg =  0 
+Eta0= 1.0281729E-02  Etab=-5.042203E-03 
+Dsub= .31871233 
+Pclm= 1.114846  Pdiblc1= 2.45357E-03  Pdiblc2= 6.406289E-03 
+Drout= .31871233  Pscbe1= 5000000  Pscbe2= 5E-09 Pdiblcb = -.234
+Pvag= 0 delta=0.01
+ Wl =  0 Ww = -1.420242E-09 Wwl =  0 
+ Wln =  0 Wwn =  .2613948 Ll =  1.300902E-10 
+ Lw =  0 Lwl =  0 Lln =  .316394 
+ Lwn =  0
+kt1=-.3  kt2=-.051 
+At= 22400 
+Ute=-1.48 
+Ua1= 3.31E-10  Ub1= 2.61E-19 Uc1= -3.42e-10 
+Kt1l=0 Prt=764.3

.model P1 PMOS
*+version = 3.2.4
+version = 3.3.0
+Level=        8 
+Tnom=27.0
+Nch= 3.533024E+17  Tox=9E-09 Xj=1.00000E-07
+Lint=6.23e-8 Wint=1.22e-7
+Vth0=-.6732829 K1= .8362093  K2=-8.606622E-02  K3= 1.82 
+Dvt0= 1.903801  Dvt1= .5333922  Dvt2=-.1862677 
+Nlx= 1.28e-8  W0= 2.1e-6 
+K3b= -0.24 Prwg=-0.001 Prwb=-0.323 
+Vsat= 103503.2  Ua= 1.39995E-09  Ub= 1.e-19  Uc=-2.73e-11 
+ Rdsw= 460  U0= 138.7609 
+A0= .4716551 Ags=0.12 
+Keta=-1.871516E-03  A1= .3417965  A2= 0.83 
+Voff=-.074182  NFactor= 1.54389  Cit=-1.015667E-03 
+Cdsc= 8.937517E-04 
+Cdscb= 1.45e-4  Cdscd=1.04e-4
+ Dvt0w=0.232 Dvt1w=4.5e6 Dvt2w=-0.0023
+Eta0= 6.024776E-02  Etab=-4.64593E-03 
+Dsub= .23222404 
+Pclm= .989  Pdiblc1= 2.07418E-02  Pdiblc2= 1.33813E-3 
+Drout= .3222404  Pscbe1= 118000  Pscbe2= 1E-09 
+Pvag= 0 
+kt1= -0.25  kt2= -0.032 prt=64.5 
+At= 33000 
+Ute= -1.5 
+Ua1= 4.312e-9 Ub1= 6.65e-19  Uc1= 0 
+Kt1l=0


.end
